US04642316
Phenytoin Sodium/Meglumine (1:1) Solution
To 1.25 g (4.6 mmol) phenytoin sodium was added 10 ml of a 10% solution of meglumine (1.0 g, 5.1 mmol), and the solution diluted to 25 ml. When 2 drops 10 N sodium hydroxide were added, the cloudy suspension became clear. After 10 minutes stirring, the pH was 11.5-11.7.

reactant | phenytoin sodium | 4.6 mmol, 1.25 g | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+]
reactant | meglumine | 5.1 mmol, 1.0 g | N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
catalyst | sodium hydroxide | 10 N, 2 drops | [OH-].[Na+]
product | Phenytoin Sodium Meglumine | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+].N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C15H12N2O2.C7H17NO5.Na/c18-13-15(17-14(19)16-13,11-7-3-1-4-8-11)12-9-5-2-6-10-12;1-8-2-4(10)6(12)7(13)5(11)3-9;/h1-10H,(H2,16,17,18,19);4-13H,2-3H2,1H3;/q;;+1/p-1/t;4-,5+,6+,7+;/m.0./s1
